US04835165
(i) 4-[1-(4-Nitropyrid-2-yl)piperidin-4-yl]benzenesulphonamide
A solution of 4-(4-piperidinyl)benzensulphonamide [the product of Example 2(iii)] (0.46 g) and 2-chloro-4-nitropyridine (0.30 g) in pyridine (10 ml) was heated under reflux for 5 hours and then evaporated. The residue was partitioned between dichloromethane and 10% aqueous sodium carbonate solution. The aqueous layer was extracted several times with dichloromethane nd the combined organic extracts were dried (MgSO4) and evaporated. The residue was chromatographed on silica gel. Elution with dichloromethane/methanol (99:1) first gave impurity followed by the pure product. The product-containing fractions were combined and evaporated to give the title compound, (0.15 g), m.p. 215°-217°.

reactant | 4-(4-piperidinyl)benzensulphonamide | N1CCC(CC1)C1=CC=C(C=C1)S(=O)(=O)N | C11H16N2O2S
reactant | 2-chloro-4-nitropyridine | 0.30 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-[1-(4-Nitropyrid-2-yl)piperidin-4-yl]benzenesulphonamide | 0.15 g | [N+](=O)([O-])C1=CC(=NC=C1)N1CCC(CC1)C1=CC=C(C=C1)S(=O)(=O)N | C16H18N4O4S
